US05861531
The process of claim 1 wherein the NTA powder is trisodiumnitrilotriacetate powder and the total amount of sulfuric acid added is sufficient to provide disodiumnitrilotriacetate.

reactant | trisodiumnitrilotriacetate | N(CC(=O)[O-])(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | disodiumnitrilotriacetate | N(CC(=O)O)(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+] | InChI=1S/C6H9NO6.2Na/c8-4(9)1-7(2-5(10)11)3-6(12)13;;/h1-3H2,(H,8,9)(H,10,11)(H,12,13);;/q;2*+1/p-2
